US08022062B2
5-Aminomethyl-2-bromo-pyridine:
Add dropwise a solution of 2-bromo-pyridine-5-carbaldehyde oxime (0.5 g, 2.487 mmol) in DME (10 mL) to a solution of titanium(IV) chloride (0.573 mL, 5.223 mmol) and sodium borohydride (395 mg, 10.445 mmol) in DME (20 mL) at 0° C. Allow the mixture to warm to room temperature and stir for 3 h. Add water and remove the solvent in vacuo. Basify the mixture to pH 12 with 1N aqueous NaOH and extract with dichloromethane. Dry the combined organic extracts over Na2SO4, filter and concentrate in vacuo to afford the desired intermediate (340 mg, 73%) that was used without further purification.

reactant | 2-bromo-pyridine-5-carbaldehyde oxime | 2.487 mmol, 0.5 g | BrC1=NC=C(C=C1)C=NO | C6H5BrN2O
reactant | sodium borohydride | 10.445 mmol, 395 mg | [BH4-].[Na+]
solvent | DME | 10 mL | COCCOC | C4H10O2
solvent | DME | 20 mL | COCCOC | C4H10O2
catalyst | titanium(IV) chloride | 5.223 mmol, 0.573 mL | [Ti](Cl)(Cl)(Cl)Cl
product | 5-Aminomethyl-2-bromo-pyridine | 340 mg, 73% | NCC=1C=CC(=NC1)Br | C6H7BrN2
